US07659263B2
To a solution of methyl 5-bromo-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate (2.00 g, 5.84 mmol) in 1,4-dioxane (20 ml) was added triethylamine (3.20 ml, 22.9 mmol). 4,4,5,5-Tetramethyl-1,3,2-dioxaborolane (2.50 ml, 17.2 mmol) was added dropwise under an argon stream and the mixture was stirred at room temperature for 30 min. To the mixture were added 2-(dicyclohexylphosphino)biphenyl (245 mg, 0.699 mmol) and palladium acetate(II) (39.0 mg, 0.173 mmol) under an argon stream, and the mixture was stirred at 100° C. for 2 hr. The reaction mixture was allowed to cool to room temperature, and saturated aqueous ammonium chloride solution was added. The mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine in this order, and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure. A mixed solvent of hexane-ethyl acetate (10:1) was added to the obtained residue and the precipitated solid was collected by filtration. The obtained solid was dried under reduced pressure to give methyl 6-cyclohexyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-4H-thieno[3,2-b]pyrrole-2-carboxylate (1.66 g, yield 74%).

reactant | methyl 5-bromo-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 5.84 mmol, 2.00 g | BrC1=C(C2=C(N1)C=C(S2)C(=O)OC)C2CCCCC2 | C14H16BrNO2S
reactant | triethylamine | 22.9 mmol, 3.20 ml | C(C)N(CC)CC | C6H15N
reactant | 4,4,5,5-Tetramethyl-1,3,2-dioxaborolane | 17.2 mmol, 2.50 ml | CC1(OBOC1(C)C)C | C6H13BO2
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.699 mmol, 245 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | methyl 6-cyclohexyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | 1.66 g, yield 74% | C1(CCCCC1)C=1C2=C(NC1B1OC(C(O1)(C)C)(C)C)C=C(S2)C(=O)OC | C20H28BNO4S
